US07566724B2
Under an argon atmosphere, potassium carbonate (207 mg) was added to a solution of 4-iodophenol (220 mg) and 2-chloropyrimidine (114 mg) in DMF (1 ml), and the resulting mixture was stirred at 120° C. for 3 hours. The reaction solution was cooled to room temperature and saturated brine was added thereto, followed by extracting the resulting mixture with chloroform. Organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=3/1) to obtain 2-(4-iodophenoxy)pyrimidine (288 mg). NMR (HL, CDCl3): δ 6.97-7.00 (2H, m), 7.06 (1H, t, J=4.6 Hz), 7.73-7.75 (2H, m), 8.57 (2H, d, J=4.6 Hz)

reactant | potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-iodophenol | 220 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | 2-chloropyrimidine | 114 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-(4-iodophenoxy)pyrimidine | 288 mg | IC1=CC=C(OC2=NC=CC=N2)C=C1 | C10H7IN2O
